US05804593
Preparation of 2-[(4-methoxybenzenesulfonyl)amino]-3,3-dimethyl pentanoic acid
2-amino-3,3-dimethylpentanoic acid hydrochloride (1.63 g), (JCS Chem. Comm. 11, 830-1992) is mixed with diisopropylethylamine (3.6 g, 3.1 equivalent) in dry THF (100 mL). The 4-methoxybenzenesulfonyl chloride (1.86 g, 1 equivalent) is added as a solid. DMF (25 mL) is added to the resulting suspension. After stirring overnight at room temperature the solvents are removed under vacuum. The residue is partitioned between ethyl acetate (200 mL) and 1N HCl (100 mL). The organic phase is separated and the aqueous phase extracted with several more portions of ethyl acetate. The combined organic phases are washed with 1N HCl and then brine. The organic phase are dried (MgSO4), filtered, and concentrated under reduced pressure. The resulting crude product is loaded onto a reverse phase column as a DMSO solution. The column is eluted using a step gradient (10% increments), starting with 30% acetonitrile/water and ending at 90% acetonitrile/water. Combination of the appropriate fractions gave 116 mg of the title compound.

reactant | 2-amino-3,3-dimethylpentanoic acid hydrochloride | 1.63 g | Cl.NC(C(=O)O)C(CC)(C)C
reactant | diisopropylethylamine | 3.6 g, 3.1 equivalent | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-methoxybenzenesulfonyl chloride | 1.86 g, 1 equivalent | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-[(4-methoxybenzenesulfonyl)amino]-3,3-dimethyl pentanoic acid | 116 mg | COC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)C(CC)(C)C | C14H21NO5S
